### PR TITLE
feat: `Multiset.map f` identifies `f` up to permutation

### PR DESCRIPTION
**Pull request by llllvvuu**
Motivation: Reason about `Fintype`-indexed families via `Multiset` equality.

Example use case 1:

```lean
theorem Matrix.IsHermitian.cfc_eigenvalues {d : Type*} [Fintype d] [DecidableEq d]
    {M : Matrix d d 𝕜} (hM : M.IsHermitian) (f : ℝ → ℝ)
    (hcfc : Matrix.IsHermitian (cfc f M) := cfc_predicate f M) :
    ∃ (e : d ≃ d), hcfc.eigenvalues = f ∘ hM.eigenvalues ∘ e := by
  have := hcfc.roots_charpoly_eq_eigenvalues.symm
  rw [hM.charpoly_cfc_eq f, Polynomial.roots_prod] at this; swap
  · simp [Finset.prod_ne_zero_iff, Polynomial.X_sub_C_ne_zero]
  simp_rw [Polynomial.roots_X_sub_C, Multiset.bind_singleton] at this
  have he := (Multiset.compTriple_equivOfMapUnivEq this).comp_eq
  simp_rw [← Function.comp_def RCLike.ofReal, ← Function.comp_def f, Function.comp_assoc] at he
  exact ⟨_, RCLike.ofReal_injective.comp_left he.symm⟩
```

Example use case 2 (on top of https://github.com/leanprover-community/mathlib4/pull/29610):

```lean
theorem LinearMap.Eigenbasis.μ_equiv {ι ι' R G : Type*} [Fintype ι] [Fintype ι']
    [CommRing R] [IsDomain R] [AddCommGroup G] [Module R G] [Module.Free R G] [Module.Finite R G]
    {f : Module.End R G} (B₁ : f.Eigenbasis ι) (B₂ : f.Eigenbasis ι') :
    ∃ e : ι ≃ ι', B₁.μ = B₂.μ ∘ e := by
  classical
  have := congr(Polynomial.roots $(B₁.charpoly_eq.symm.trans B₂.charpoly_eq))
  rw [Polynomial.roots_prod, Polynomial.roots_prod] at this; rotate_left
  · simp [Finset.prod_ne_zero_iff, Polynomial.X_sub_C_ne_zero]
  · simp [Finset.prod_ne_zero_iff, Polynomial.X_sub_C_ne_zero]
  simp_rw [Polynomial.roots_X_sub_C, Multiset.bind_singleton] at this
  exact ⟨Multiset.equivOfMapUnivEq this, (Multiset.compTriple_equivOfMapUnivEq this).comp_eq.symm⟩
```

Co-authored-by: Aristotle Harmonic <aristotle-harmonic@harmonic.fun>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Multiset/Fintype.lean [hunk 1]
```diff
@@ -312,4 +312,33 @@ noncomputable def mapEquiv (s : Multiset α) (f : α → β) : s ≃ s.map f :=
 theorem mapEquiv_apply (s : Multiset α) (f : α → β) (v : s) : s.mapEquiv f v = f v :=
   (Multiset.mapEquiv_aux s f).out.2 v
 
+/-- `s ≃ t` induced by `t.map g = s.map f`. -/
+noncomputable def equivOfMapEq {γ : Type*} [DecidableEq γ] {f : α → γ} {g : β → γ}
```
Comment (vihdzp) [inline Mathlib/Data/Multiset/Fintype.lean:320]: I know very little category theory, but isn't this an example of a pullback? (Or is it a pushforward? In either case, perhaps that should influence the name?)

File: Mathlib/Data/Multiset/Fintype.lean [hunk 2]
```diff
@@ -312,4 +312,33 @@ noncomputable def mapEquiv (s : Multiset α) (f : α → β) : s ≃ s.map f :=
...
+    {s : Multiset α} {t : Multiset β} (h : s.map f = t.map g) : s ≃ t :=
+  (mapEquiv s f) |>.trans (cast h) |>.trans (mapEquiv t g).symm
+
+theorem comp_coe_eq_comp_coe_comp_equivOfMapEq {γ : Type*} [DecidableEq γ]
+    {f : α → γ} {g : β → γ} {s : Multiset α} {t : Multiset β} (h : s.map f = t.map g) :
+    f ∘ (↑) = g ∘ (↑) ∘ equivOfMapEq h := by
+  ext x
+  simp [equivOfMapEq, ← mapEquiv_apply t g]
+
+/-- The obvious equivalence between a type and its `Finset.univ.val` coerced to a type. -/
```
Comment (vihdzp) [inline Mathlib/Data/Multiset/Fintype.lean]: I'd personally hesitate to call a non-canonical equivalence "obvious".

Comment (wwylele) [reply Mathlib/Data/Multiset/Fintype.lean]: After deciphering the type involved here, I figured out this is actually canonical (there is only one element to map to because the `Finset.val : Multiset α` has no duplicate element), but this indeed reads weird overall, because accessing `Finset.val` isn't something I would do usually

File: Mathlib/Data/Multiset/Fintype.lean (hunk 1 above)
Comment (llllvvuu) [reply Mathlib/Data/Multiset/Fintype.lean:320]: There's definitely a commutative square (or triangle in some sense), so it does seem similar in spirit; I wasn't confident enough to give this a math-y name, so I just went for something literal

File: Mathlib/Data/Multiset/Fintype.lean (hunk 2 above)
Comment (llllvvuu) [reply Mathlib/Data/Multiset/Fintype.lean]: "canonical" is a better word; updated

File: Mathlib/Data/Multiset/Fintype.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Fintype.lean:320]: Can you say (prove) anything interesting about what the result of applying this equiv is?

Comment (llllvvuu) [reply Mathlib/Data/Multiset/Fintype.lean:320]: I don't know if it says anything interesting about multisets, although I find it helpful for lemmas such as
```lean
theorem Matrix.IsHermitian.cfc_eigenvalues {d : Type*} [Fintype d] [DecidableEq d]
    {M : Matrix d d 𝕜} (hM : M.IsHermitian) (f : ℝ → ℝ)
    (hcfc : Matrix.IsHermitian (cfc f M) := cfc_predicate f M) :
    ∃ (e : d ≃ d), hcfc.eigenvalues = f ∘ hM.eigenvalues ∘ e := by
  have := hcfc.roots_charpoly_eq_eigenvalues.symm
  rw [hM.charpoly_cfc_eq f, Polynomial.roots_prod] at this; swap
  · simp [Finset.prod_ne_zero_iff, Polynomial.X_sub_C_ne_zero]
  simp_rw [Polynomial.roots_X_sub_C, Multiset.bind_singleton] at this
  have he := (Multiset.compTriple_equivOfMapUnivEq this).comp_eq
  simp_rw [← Function.comp_def RCLike.ofReal, ← Function.comp_def f, Function.comp_assoc] at he
  exact ⟨_, RCLike.ofReal_injective.comp_left he.symm⟩
```

and on https://github.com/leanprover-community/mathlib4/pull/29610,

```lean
theorem LinearMap.Eigenbasis.μ_equiv {ι ι' R G : Type*} [Fintype ι] [Fintype ι']
    [CommRing R] [IsDomain R] [AddCommGroup G] [Module R G] [Module.Free R G] [Module.Finite R G]
    {f : Module.End R G} (B₁ : f.Eigenbasis ι) (B₂ : f.Eigenbasis ι') :
    ∃ e : ι ≃ ι', B₁.μ = B₂.μ ∘ e := by
  classical
  have := congr(Polynomial.roots $(B₁.charpoly_eq.symm.trans B₂.charpoly_eq))
  rw [Polynomial.roots_prod, Polynomial.roots_prod] at this; rotate_left
  · simp [Finset.prod_ne_zero_iff, Polynomial.X_sub_C_ne_zero]
  · simp [Finset.prod_ne_zero_iff, Polynomial.X_sub_C_ne_zero]
  simp_rw [Polynomial.roots_X_sub_C, Multiset.bind_singleton] at this
  exact ⟨Multiset.equivOfMapUnivEq this, (Multiset.compTriple_equivOfMapUnivEq this).comp_eq.symm⟩
```

I updated the `def` docstrings and PR description to explain the motivation better.
